US05354870
The 4-benzyloxy-5-ethoxyindole (1.8 g, 0.0067 mole) obtained in Example (lc), 50% caustic soda (8 ml ), toluene (5.4 ml ) and tetrabutylammonium hydrogen sulphate (180 mg) are successively introduced. The mixture is heated to 60° C. and dimethyl sulphate (1 g) is introduced. The mixture is left at 60° C. for 30 minutes, diluted with water and the two phases are separated. The organic phase is washed with water, dried and the solvent evaporated. A colourless oil of 4-benzyloxy-5-ethoxy-l-methylindole (1.6 g; yield = 95%) is obtained.

reactant | 4-benzyloxy-5-ethoxyindole | 0.0067 mole, 1.8 g | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1OCC | C17H17NO2
reactant | caustic soda | 8 ml | [OH-].[Na+]
reactant | toluene | 5.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulphate | 1 g | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | tetrabutylammonium hydrogen sulphate | 180 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-benzyloxy-5-ethoxy-l-methylindole | 1.6 g, yield = 95% | C(C1=CC=CC=C1)OC1=C2C=CN(C2=CC=C1OCC)C | C18H19NO2
